US05095013
(2S,4R)-N-Allyloxycarbonyl-4-hydroxyproline methyl ester
A mixture of L-hydroxyproline methyl ester hydrochloride (the compound obtained in Reference Example 1-1); 24.37 g, 134 mmol) and triethylamine (41.2 ml, 295 mmol) in methylene chloride (240 ml) was stirred at room temperature for 10 minutes, cooled to -5° C., treated dropwise with a solution of allyl chloroformate (14.9 ml, 140 mmol) in methylene chloride (30 ml). The reaction mixture was stirred at -5° C. for 1 hour, and washed twice with water. The organic layer was dried over anhydrous sodium sulfate and evaporated to afford the title compound (30.8 g, 100% yield) as an oil.

reactant | L-hydroxyproline methyl ester hydrochloride | Cl.COC([C@H]1NC[C@@H](C1)O)=O
reactant | triethylamine | 295 mmol, 41.2 ml | C(C)N(CC)CC | C6H15N
reactant | allyl chloroformate | 140 mmol, 14.9 ml | ClC(=O)OCC=C | C4H5ClO2
solvent | methylene chloride | 240 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | (2S,4R)-N-Allyloxycarbonyl-4-hydroxyproline methyl ester | 30.8 g, 100% yield | COC([C@H]1N(C[C@@H](C1)O)C(=O)OCC=C)=O | C10H15NO5
